US04539324
1-(1,2,5-Thiadiazol-3-yl methyloxy)methyl-5-chloropyrimidin-2-one
3-(Chloromethyl)oxymethyl-1,2,5-thiadiazole (see Preparation 10) (0.18 mmol) in dichloromethane (1 ml) was added dropwise with stirring at room temperature to a solution of 5-chloropyrimidin-2-one hydrochloride (18 mmol) and triethylamine (0.36 mmol) in dichloromethane (3 ml). The mixture was stirred for 11/2 hours at 40° C. before the solvent was distilled off. The residue was triturated with water, extracted into chloroform and the dried (MgSO4) solution evaporated. Trituration of the residue with ether left the title compound in 20% (11 mg) yield, m.p. 106° C. 1H NMR (CDCl3): δ5.00 (CH2Het), 5.40 (OCH2), 7.73 and 8.47 (H-4, H-6, J 3 Hz), 8.50 (H-31).

reactant | 3-(Chloromethyl)oxymethyl-1,2,5-thiadiazole | 0.18 mmol | ClCOCC1=NSN=C1 | C4H5ClN2OS
reactant | 5-chloropyrimidin-2-one hydrochloride | 18 mmol | Cl.ClC=1C=NC(NC1)=O
reactant | triethylamine | 0.36 mmol | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 1-(1,2,5-Thiadiazol-3-yl methyloxy)methyl-5-chloropyrimidin-2-one | S1N=C(C=N1)COCN1C(N=CC(=C1)Cl)=O | C8H7ClN4O2S
